US06852748B1
(R)-3-(4-Bromobenzyl)-1-(3,5-dichlorophenyl)-3-methyl-imidazo[1,2-α]-imidazol-2-one (13.5 g, 29.9 mmol) was dissolved in anhydrous DMF (70 mL) and CuCN (3.22 g, 35.9 mmol) was added. The reaction mixture was heated to 140° C. under argon for 40 h. When the reaction was complete, the solvent was removed under reduced pressure and the residue was diluted with CH2Cl2. The organic solution was washed four times alternately with 5% aqueous pyridine then water. The organic layer was dried over Na2SO4 and filtered through a diatomaceous earth pad. The filtrate was concentrated and purified by silica gel column chromatography using a mixture of CH2Cl2-hexane (10:1) as an eluent to afford 9.19 g of (R)-3-(4-cyanobenzyl)-1-(3,5-dichlorophenyl)-3-methyl-imidazo[1,2-a)-imidazol-2-one.

reactant | (R)-3-(4-Bromobenzyl)-1-(3,5-dichlorophenyl)-3-methyl-imidazo[1,2-α]-imidazol-2-one | 29.9 mmol, 13.5 g | BrC1=CC=C(C[C@@]2(C(N(C=3N2C=CN3)C3=CC(=CC(=C3)Cl)Cl)=O)C)C=C1 | C19H14BrCl2N3O
reactant | CuCN | 35.9 mmol, 3.22 g | C(#N)[Cu]
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | (R)-3-(4-cyanobenzyl)-1-(3,5-dichlorophenyl)-3-methyl-imidazo[1,2-a)-imidazol-2-one | 9.19 g | C(#N)C1=CC=C(C[C@@]2(C(N(C=3N2C=CN3)C3=CC(=CC(=C3)Cl)Cl)=O)C)C=C1 | C20H14Cl2N4O
